US06423713B1
Methyl chloroformate (55 mg) was added to a solution of 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperazinyl)pyrazole (200 mg, 0.54 mmol; prepared as set forth in Example A-169) and 4-dimethylaminopyridine (5 mg) in pyridine (10 mL). The mixture was stirred at room temperature for 3 hours. Additional methyl chloroformate (30 mg) was added and stirring was continued for 24 hours. The solvent was removed in vacuo. The residue was treated with water and extracted with ethyl acetate. After drying the organic layer (MgSO4), the solvent was blown down to a volume of 10 mL and refrigerated. The resultant crystalline solid was filtered and air dried to give 103 mg (48%) of methyl 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-1-piperazinecarboxylate, monohydrate, mp 264-265° C. Anal. Calc'd. for C20H20ClN5O2.H2O: C, 57.76; H, 5.33; N, 16.84. Found: C, 57.98; H, 4.89; N, 16.44.

reactant | Methyl chloroformate | 55 mg | ClC(=O)OC | C2H3ClO2
reactant | 3-(4-chlorophenyl)-4-(4-pyridyl)-5-(4-piperazinyl)pyrazole | ClC1=CC=C(C=C1)C1=NNC(=C1C1=CC=NC=C1)N1CCNCC1 | C18H18ClN5
reactant | methyl chloroformate | 30 mg | ClC(=O)OC | C2H3ClO2
catalyst | 4-dimethylaminopyridine | 5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | methyl 4-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-1-piperazinecarboxylate, monohydrate | 103 mg, 48% | O.ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CCN(CC1)C(=O)OC)C1=CC=NC=C1 | InChI=1S/C20H20ClN5O2.H2O/c1-28-20(27)26-12-10-25(11-13-26)19-17(14-6-8-22-9-7-14)18(23-24-19)15-2-4-16(21)5-3-15;/h2-9H,10-13H2,1H3,(H,23,24);1H2
